US05173493
To a solution of diisopropylamine (1.89 g) in tetrahydrofuran (30 ml) at -70° C. under a nitrogen atmosphere was added 1.64M n-butyllithium in hexane (11.5 ml). After being stirred at the same temperature for 20 minutes, the mixture was treated with a solution of 8,9-dihydro-10-methylpyrido[1,2-a]indol-6(7H)-one (3.39 g) in tetrahydrofuran (39 ml) over 15 minutes. The mixture was stirred at -70° C. for 30 minutes, and a solution of 5-methyl-1-trityl-1H-imidazole-4-carbaldehyde (6.0 g) in tetrahydrofuran (75 ml) was added dropwise over 20 minutes. After the mixture was stirred at -70° C. for further 55 minutes, it was diluted with water and extracted with methylene chloride. The organic layer was washed with water twice and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo to give 8,9-dihydro-7-[(hydroxy)(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]-10 -methylpyrido[1,2-a]indol-6(7H)-one. The product was a mixture of two diastereoisomers.

reactant | diisopropylamine | 1.89 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.64M | C(CCC)[Li]
reactant | 8,9-dihydro-10-methylpyrido[1,2-a]indol-6(7H)-one | 3.39 g | CC1=C2N(C3=CC=CC=C13)C(CCC2)=O | C13H13NO
reactant | 5-methyl-1-trityl-1H-imidazole-4-carbaldehyde | 6.0 g | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=O | C24H20N2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | hexane | 11.5 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 39 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 8,9-dihydro-7-[(hydroxy)(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]-10 -methylpyrido[1,2-a]indol-6(7H)-one | OC(C1CCC=2N(C3=CC=CC=C3C2C)C1=O)C=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C37H33N3O2
